US07220856B2
Preparation of 4-(2-Amino-7-chloro-4-quinolinyl)-N-[(3S)-hexahydro-1-(methylsulfonyl)-2-oxo-1H-azepin-3-yl]-1-piperazinecarboxamide
As described for example 213, [(3R)-hexahydro-1-(methylsulfonyl)-2-oxo-1H-azepin-3-yl]-carbamic acid-1,1-dimethylethyl ester, TFA, triphosgene, NaHCO3 (sat.), and 7-chloro-4-(1-piperazinyl)-2-quinolinamine are reacted to afford the product as a light yellow solid. LC-MS: 495 (M++1). 1H NMR (CDCl3) δ 1.52 (m, 1H), 1.70 (m, 1H), 1.86 (m, 1H), 1.95˜2.05 (m, 2H), 2.15 (m, 1H), 3.09 (m, 4H), 3.45 (s, 3H), 3.48 (m, 1H), 3.65 (m, 4H), 4.45 (m, 1H), 4.81 (m, 1H), 5.17 (br.s, 2H), 5.95 (d, 1H), 6.15 (s, 1H), 7.15 (dd, 1H), 7.60 (d, 1H), 7.69 (d, 1H).

reactant | [(3R)-hexahydro-1-(methylsulfonyl)-2-oxo-1H-azepin-3-yl]-carbamic acid-1,1-dimethylethyl ester | CC(C)(C)OC(N[C@H]1C(N(CCCC1)S(=O)(=O)C)=O)=O | C12H22N2O5S
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | triphosgene | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
reactant | 7-chloro-4-(1-piperazinyl)-2-quinolinamine | ClC1=CC=C2C(=CC(=NC2=C1)N)N1CCNCC1 | C13H15ClN4
product | 4-(2-Amino-7-chloro-4-quinolinyl)-N-[(3S)-hexahydro-1-(methylsulfonyl)-2-oxo-1H-azepin-3-yl]-1-piperazinecarboxamide | NC1=NC2=CC(=CC=C2C(=C1)N1CCN(CC1)C(=O)N[C@@H]1C(N(CCCC1)S(=O)(=O)C)=O)Cl | C21H27ClN6O4S
